US06403604B1
The reaction mixture of 1-(3-trifluoromethylphenyl)piperazine (510 mg, 2.2 mmol), ethyl 3-bromopropionate (500 mg, 2.7 mmol), sodium bicarbonate (300 mg, 3.5 mmol) and ethanol (15 ml) was refluxed for 3 h till the amine disappeared completely. After the mixture was filtered, the resulting solid was dissolved in 5 ml dioxane and 14 ml 5% sodium hydroxide solution. The mixture was stirred at room temperature overnight, then it was acidified with concentrated hydrogen chloride. Solid was filtered and washed with water, and then dried to give 500 mg 3-[4-(3-trifluoromethylphenyl)-1-piperazinyl]propionic acid as a white solid, mp 228-230° C.

reactant | 1-(3-trifluoromethylphenyl)piperazine | 2.2 mmol, 510 mg | FC(C=1C=C(C=CC1)N1CCNCC1)(F)F | C11H13F3N2
reactant | ethyl 3-bromopropionate | 2.7 mmol, 500 mg | BrCCC(=O)OCC | C5H9BrO2
reactant | sodium bicarbonate | 3.5 mmol, 300 mg | C([O-])(O)=O.[Na+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 3-[4-(3-trifluoromethylphenyl)-1-piperazinyl]propionic acid | 500 mg | FC(C=1C=C(C=CC1)N1CCN(CC1)CCC(=O)O)(F)F | C14H17F3N2O2
